US07834034B2
Benzo[b]thiophene-2,6-dicarboxylic acid 6-methyl ester.
To a solution of benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester (139 mg, 0.56 mmol) in THF/MeOH (2/2 mL) was added 1 N NaOH (555 μL). After 5 h, the solution was diluted with CH2Cl2 and acidified with 5% citric acid. The combined organic fractions were dried, filtered, and concentrated to yield the desired acid, which was used without further purification. MS (EI): cal'd (MH+) 237.01, exp (MH+) 237.13.

reactant | benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester | 0.56 mmol, 139 mg | COC(=O)C1=CC2=C(S1)C=C(C=C2)C(=O)OC | C12H10O4S
reactant | NaOH | 1 N, 555 μL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF MeOH | 2 mL | C1CCOC1.CO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Benzo[b]thiophene-2,6-dicarboxylic acid 6-methyl ester | COC(=O)C=1C=CC2=C(SC(=C2)C(=O)O)C1 | C11H8O4S
